* source P1-AMPLIFICATOR
Q_Q1         N00130 VIN N00146 QBC846B 
Q_Q2         N00111 N01164 N00146 QBC846B 
Q_Q3         N00130 N00111 N00219 QBC856B 
Q_Q4         N00111 N00111 N00215 QBC856B 
Q_Q5         N00599 N00130 N18430 QBC856B 
Q_Q6         N00394 N00394 N00599 QBC856B 
Q_Q7         N00415 N00415 N00394 QBC856B 
Q_Q8         N00223 N00599 VOUT QBC846B 
Q_Q9         N00998 N00415 VOUT QBC856B 
Q_Q10         N00146 N00938 N07192 QBC846B 
Q_Q11         N00415 N00938 N01004 QBC846B 
R_R1         N36348 VIN  100k TC=0,0 
R_R2         0 N36348  4.7k TC=0,0 
R_R3         N00219 N00223  51 TC=0,0 
R_R4         N00215 N00223  51 TC=0,0 
R_R5         N268611 N00223  150 TC=0,0 
R_R6         N27319 N268611  100 TC=0,0 
R_R7         N18430 N27319  0.47 TC=0,0 
R_R8         N00998 N00938  1k TC=0,0 
R_R9         N00938 0  1k TC=0,0 
R_R10         N00992 N07192  1k TC=0,0 
R_R11         N00998 N00992  1.5k TC=0,0 
R_R12         N01004 N00998  510 TC=0,0 
R_R13         N01164 0  1k TC=0,0 
R_R14         N01164 N01228  910 TC=0,0 
R_R15         N01228 VOUT  5.6k TC=0,0 
V_V1         VIN 0 DC 0Vdc AC 100m 
V_V2         N00223 0 8V
V_V3         N00998 0 -8V
R_RL         0 VOUT  1 TC=0,0 
